US06465497B2
Step B: Preparation of ethyl 3-(3-bromopropoxy)mandelate
A solution of ethyl 3-hydroxymandelate (10.0 g), 1,3-dibromopropane (41.16 g) and potassium carbonate (8.08 g) in dry DMF (150 mL) was stirred at 40° C. overnight. The reaction mixture was partitioned between ethyl acetate and 1.0 N HCl. The organic layer was washed twice with water, once with brine and then dried over sodium sulfate. The organic layer was then filtered and the solvent removed in vacuo. The resulting oil was chromatographed on silica gel, using a gradient of 100% hexane to methylene chloride-hexane to yield the titled compound.

reactant | ethyl 3-hydroxymandelate | 10.0 g | OC=1C=C(C(C(=O)OCC)O)C=CC1 | C10H12O4
reactant | 1,3-dibromopropane | 41.16 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 8.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(3-bromopropoxy)mandelate | BrCCCOC=1C=C(C(C(=O)OCC)O)C=CC1 | C13H17BrO4
